US08445509B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)pyridin-2-yl]-6-(4-fluorophenyl)-5-methylpyridine-2-carboxamide 1-oxide
To a solution of N-{6-[(6-aminopyridin-3-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide (100 mg, 0.323 mmol) and 6-(4-fluorophenyl)-5-methylpyridine-2-carboxylic acid 1-oxide (103.8 mg, 0.42 mmol) in N,N-dimethylformamide (1 mL) were added N,N-diisopropylethylamine (111 μL, 0.646 mmol) and HATU (160 mg, 0.42 mmol), and the mixture was stirred at room temperature for 4 hr. Ethyl acetate, tetrahydrofuran and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (140 mg, 80%) as a slightly yellow solid.

reactant | N-{6-[(6-aminopyridin-3-yl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 0.323 mmol, 100 mg | NC1=CC=C(C=N1)OC=1C=CC=2N(C1)C=C(N2)NC(=O)C2CC2 | C16H15N5O2
reactant | 6-(4-fluorophenyl)-5-methylpyridine-2-carboxylic acid 1-oxide | 0.42 mmol, 103.8 mg | FC1=CC=C(C=C1)C=1C(=CC=C([N+]1[O-])C(=O)O)C | C13H10FNO3
reactant | N,N-diisopropylethylamine | 0.646 mmol, 111 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.42 mmol, 160 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)pyridin-2-yl]-6-(4-fluorophenyl)-5-methylpyridine-2-carboxamide 1-oxide | 140 mg, 80% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=CC(=NC2)NC(=O)C=2[N+](=C(C(=CC2)C)C2=CC=C(C=C2)F)[O-])C1 | C29H23FN6O4
